US07208633B2
bis-(3,5-di-tert-butylphenyl)phosphine-borane complex
Under a nitrogen stream, a solution of cerium chloride (4.88 g, 3.00 equivalents) in THF (40 mL) was stirred at room temperature (25° C.) for 30 min. Sodium borohydride (0.75 g, 3.00 equivalents) was added, and the mixture was stirred at room temperature for 1 hr. Then-bis(3,5-di-tert-butylphenyl)phosphine oxide (2.81 g, 6.6 mmol) synthesized in Reference Example 16 and lithium aluminum hydride (0.39 g, 1.23 equivalents) were successively added at −9° C. and the mixture was stirred for 1.5 hrs. Toluene (20 mL) was added at 4° C., 6M-HCl (6 mL) was added and water (10 mL) was added at 4° C., and the mixture was stirred at room temperature for 30 min. The reaction mixture was partitioned, and the organic layer was dried over anhydrous magnesium sulfate, filtered by gravity, and passed through a membrane filter (0.2 μm) under reduced pressure. To the filtrate was added a borane-THF complex (7 mL, 1.08 equivalents) at room temperature and the mixture was stirred for 16 hrs. and concentrated under reduced pressure. To the concentrate was added a borane-THF complex (10 mL, 1.55 equivalents) at room temperature and the mixture was concentrated under reduced-pressure. Toluene (10 mL) was added to the residue for dissolution and the mixture was purified by silica gel column chromatography (silica gel 25 g, toluene). The effective fraction was concentrated under reduced pressure. The residue was recrystallized from n-hexane and dried (reduced pressure, 40° C.) to give the title compound (2.03 g, white powder). yield 72.7%. melting point: 135.4° C.

reactant | cerium chloride | 4.88 g, 3.00 equivalents | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | Sodium borohydride | 0.75 g, 3.00 equivalents | [BH4-].[Na+]
reactant | bis(3,5-di-tert-butylphenyl)phosphine oxide | 6.6 mmol, 2.81 g | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)P(C1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C)=O | C28H43OP
reactant | lithium aluminum hydride | 0.39 g, 1.23 equivalents | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | HCl | 6 mL | Cl | ClH
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
solvent | Toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | bis-(3,5-di-tert-butylphenyl)phosphine borane | 2.03 g, yield 72.7% | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)PC1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C.B | InChI=1S/C28H43P.BH3/c1-25(2,3)19-13-20(26(4,5)6)16-23(15-19)29-24-17-21(27(7,8)9)14-22(18-24)28(10,11)12;/h13-18,29H,1-12H3;1H3
